US08119673B2
To a solution of 2-tert-butyl 3-ethyl (3S)-isoxazolidine-2,3-dicarboxylate (245 mg, 1.00 mmol) in acetonitrile (2.5 mL) and water (1 mL) was added lithium hydroxide (1 M in water, 1.00 mL, 1.00 mmol) and the mixture was stirred at rt for 30 min. To this solution was added 5-chloro-2-tetrazol-1-yl-benzylamine hydrochloride (295 mg, 1.20 mmol, prepared as described in J. Med. Chem. 2004, 47, 2995), hydroxybenzotriazole (135 mg, 1.00 mmol, as a 20% solution in water, ca 0.65 mL), EDC (288 mg, 1.50 mmol) and NMM (202 mg, 2.00 mmol). The resulting mixture was stirred at rt over night, then diluted with DCM and washed with 1 M HCl and saturated sodium hydrogen carbonate. The organic phase was dried, filtered, evaporated and purified by flash chromatography (DCM/EtOAc gradient from 4:1 to 1:1) to give tert-butyl (3S)-3-{[5-chloro-2-(1H-tetrazol-1-yl)benzyl]carbamoyl}isoxazolidine-2-carboxylate (357 mg, 87%) as an oil.

reactant | 2-tert-butyl 3-ethyl (3S)-isoxazolidine-2,3-dicarboxylate | 1.00 mmol, 245 mg | O1N([C@@H](CC1)C(=O)OCC)C(=O)OC(C)(C)C | C11H19NO5
reactant | lithium hydroxide | 1.00 mmol, 1 M, 1.00 mL | [OH-].[Li+]
reactant | 5-chloro-2-tetrazol-1-yl-benzylamine hydrochloride | 1.20 mmol, 295 mg | Cl.ClC=1C=CC(=C(CN)C1)N1N=NN=C1
reactant | hydroxybenzotriazole | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | EDC | 1.50 mmol, 288 mg
reactant | NMM | 2.00 mmol, 202 mg | CN1CCOCC1 | C5H11NO
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
solvent | water | 1 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-butyl (3S)-3-{[5-chloro-2-(1H-tetrazol-1-yl)benzyl]carbamoyl}isoxazolidine-2-carboxylate | 357 mg, 87% | ClC=1C=CC(=C(CNC(=O)[C@H]2N(OCC2)C(=O)OC(C)(C)C)C1)N1N=NN=C1 | C17H21ClN6O4
